US04236002
(-)-α-Amino-4-hydroxy-3-[(methylthio)methyl]benzeneacetic acid
To a solution of methanethiol (3 g, 0.04 mmole) in 250 ml of water is added sodium hydroxide (0.04 mole) followed by (-)-α-amino-3-(chloromethyl)-4-hydroxybenzeneacetic acid hydrochloride (5 g, 0.02 mole). The solution obtained is stirred overnight. Removal of the solvent by flash evaporation gives a quantitative yield of the title compound combined with 2 equivalents of sodium chloride.

reactant | methanethiol | 0.04 mmole, 3 g | CS | CH4S
reactant | sodium hydroxide | 0.04 mole | [OH-].[Na+]
reactant | (-)-α-amino-3-(chloromethyl)-4-hydroxybenzeneacetic acid hydrochloride | 0.02 mole, 5 g | Cl.NC(C(=O)O)C1=CC(=C(C=C1)O)CCl
solvent | water | 250 ml | O | H2O
product | (-)-α-Amino-4-hydroxy-3-[(methylthio)methyl]benzeneacetic acid | quantitative yield | NC(C(=O)O)C1=CC(=C(C=C1)O)CSC | C10H13NO3S
